US07166597B2
c) 4-[2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine
A mixture of 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)pyrazolo[1,5-a]pyridine (60 mg, 0.19 mmol), guanidinium hydrochloride (36 mg, 0.38 mmol), and K2CO3 (105 mg, 0.76 mmol) in N,N-dimethylformamide (3 mL) was stirred in a 110° C. oil bath for 8 h. Additional guanidinium hydrochloride (36 mg, 0.38 mmol) was added, and the mixture stirred in a 110° C. oil bath for 16 h. The mixture was cooled to room temperature, and water (20 mL) added. The resulting tan precipitate was collected by filtration, washed with water, air-dried, the dried under high-vacuum to afford the title compound, 0.033 g (57%). 1H NMR (CDCl3) δ 8.57 (d, 1H, J=6.0 Hz), 8.51 (d, 1H, J=8.9 Hz), 7.98 (d, 2H, J=5.7 Hz), 7.64 (m, 2H), 7.46 (m, 1H), 7.22 (m, 2H), 7.04 (m, 1H), 6.47 (d, 1H, J=5.8 Hz), 5.76 (s. 2H). MS (+ve ion electrospray) 306 (100), (MH+).

reactant | 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)pyrazolo[1,5-a]pyridine | 0.19 mmol, 60 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C=CN(C)C)=O | C18H16FN3O
reactant | guanidinium hydrochloride | 0.38 mmol, 36 mg | Cl.NC(=[NH2+])N
reactant | K2CO3 | 0.76 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | guanidinium hydrochloride | 0.38 mmol, 36 mg | Cl.NC(=[NH2+])N
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)N | C17H12FN5
